US08133882B2
To a 5 ml 1,4-dioxane solution of 300 mg of {[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]oxy}acetonitrile was added 0.8 ml of tributyltin azide, followed by heating under reflux for 2 days. After cooling to room temperature, aqueous 1M sodium hydroxide solution and ether were added, followed by layer separation operation. To the aqueous layer was added 1 M hydrochloric acid, followed by extraction with chloroform and washing with aqueous saturated sodium chloride. After drying over anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure. By adding ether to the resulting residue and collecting the insoluble materials by filtration, 70 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(1H-tetrazol-5-ylmethoxy)quinolin-4(1H)-one was obtained.

reactant | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | {[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]oxy}acetonitrile | 300 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)OCC#N)=O)F | C22H26FN3O2
reactant | tributyltin azide | 0.8 ml | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-(1H-tetrazol-5-ylmethoxy)quinolin-4(1H)-one | 70 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)OCC1=NN=NN1)=O)F | C22H27FN6O2
